US05215964
E. Z-Arg-Pro-Asp(OBzl)-Pro-Phe-NH2
To a stirred solution of Z-Arg.HCl (5.17 g, 15 mmoles) in dimethylacetamide (25 mL) at 25° C. was added a solution of HCl.Pro-Asp(OBzl)-Pro-Phe-NH2 and N-methylmorpholine (1.65 mL, 15 mmoles) in dimethylacetamide (25 mL). To the resulting solution, diethyl cyanophosphonate (2.45 g, 15 mmoles) and N-methylmorpholine (1.65 mL, 15 mmoles) were added and the mixture stirred for 4 hours. The reaction was quenched by the addition of 10% aqueous acetic acid (10 mL) and the solvents were removed on a rotary evaporator under reduced pressure. The resulting solid was triturated with 10% potassium carbonate and then with water and filtered.

reactant | Z-Arg.HCl | 15 mmoles, 5.17 g | N([C@@H](CCCNC(N)=N)C(=O)O)C(=O)OCC1=CC=CC=C1.Cl
reactant | HCl | Cl | ClH
reactant | Pro-Asp(OBzl)-Pro-Phe-NH2 | N1[C@H](C(=O)N[C@@H](CC(OCC2=CC=CC=C2)=O)C(=O)N2[C@H](C(=O)N[C@@H](CC3=CC=CC=C3)C(=O)N)CCC2)CCC1 | C30H37N5O6
reactant | N-methylmorpholine | 15 mmoles, 1.65 mL | CN1CCOCC1 | C5H11NO
reactant | diethyl cyanophosphonate | 15 mmoles, 2.45 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | N-methylmorpholine | 15 mmoles, 1.65 mL | CN1CCOCC1 | C5H11NO
solvent | dimethylacetamide | 25 mL | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 25 mL | CC(=O)N(C)C | C4H9NO
product | Z-Arg-Pro-Asp(OBzl)-Pro-Phe-NH2 | N([C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)N[C@@H](CC(OCC2=CC=CC=C2)=O)C(=O)N2[C@H](C(=O)N[C@@H](CC3=CC=CC=C3)C(=O)N)CCC2)CCC1)C(=O)OCC1=CC=CC=C1 | C44H55N9O9
